US08067621B2
Step 2: 4-(4-Chloro-phenylsulfanyl)-5,8-difluoro-chroman-3-ol
5,8-Difluoro-2H-chromene oxide (23 g, 0.125 mole) and 4-Chloro-benzenethiol (18.1 g, 0.125 mmole) were dissolved in 500 ml DCM and InCl3 (2.9 g, 0.013 mole) was added. The reaction was stirred at room temperature overnight. 200 ml DCM and 200 ml water were added. The organic layer washed with brine, dried over Na2SO4 and concentrated. The product was purified by column chromatography (EtOAc/hexane from 0/100 to 50/50 in 55 minute). Yield: 23.2 g, 57%. 1H NMR (CDCl3 400 MHz δ 7.48 (d, J=8.8 Hz, 2H), 7.34 (d, J=8.8 Hz, 2H), 7.01 (m, 1H), 6.64 (m, 1H), 4.63 (d, J=11.7 Hz, 1H), 4.32-4.41 (m, 2H), 4.12 (m, 1H).

reactant | 5,8-Difluoro-2H-chromene oxide | 0.125 mole, 23 g | FC1=C2C3C(COC2=C(C=C1)F)O3 | C9H6F2O2
reactant | 4-Chloro-benzenethiol | 0.125 mmole, 18.1 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | water | 200 ml | O | H2O
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-phenylsulfanyl)-5,8-difluoro-chroman-3-ol | ClC1=CC=C(C=C1)SC1C(COC2=C(C=CC(=C12)F)F)O | C15H11ClF2O2S
